### PR TITLE
[Merged by Bors] - feat(Algebra/MonoidAlgebra): `map` and `comapDomain`

### PR DESCRIPTION
**Pull request by YaelDillies**
This follows what we have for `Finsupp` and `Polynomial`.

---
- [x] depends on: #36762

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 1]
```diff
@@ -59,6 +59,40 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
     mapDomain f (1 : R[M]) = (1 : R[N]) := by
   simp [one_def]
 
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
+each coefficient along `f`. -/
+@[to_additive
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
+each coefficient along `f`. -/]
+def mapRange (f : R →+ S) (x : R[M]) : S[M] := .ofCoeff <| .mapRange f f.map_zero x
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
def mapRange (f : R →+ S) (x : R[M]) : S[M] := .ofCoeff <| x.coeff.mapRange f f.map_zero
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 2]
```diff
@@ -59,6 +59,40 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+
+@[to_additive (attr := simp)]
+lemma coeff_mapRange (f : R →+ S) (x : R[M]) : (mapRange f x) = Finsupp.mapRange f f.map_zero x :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
lemma coeff_mapRange (f : R →+ S) (x : R[M]) : (mapRange f x).coeff = x.coeff.mapRange f f.map_zero :=
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 3]
```diff
@@ -131,8 +165,8 @@ variable (M) in
 
 `Finsupp.mapRange` as an `AddEquiv`. -/]
 def mapRangeAddEquiv (e : R ≃+ S) : R[M] ≃+ S[M] where
-  toFun x := .mapRange e e.map_zero x
-  invFun x := .mapRange e.symm e.symm.map_zero x
+  toFun x := Finsupp.mapRange e e.map_zero x
+  invFun x := Finsupp.mapRange e.symm e.symm.map_zero x
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Surely you want to be using the new map range here?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 4]
```diff
@@ -199,7 +233,7 @@ noncomputable def mapRangeRingHom (f : R →+* S) : R[M] →+* S[M] where
 
 @[to_additive]
 lemma coe_mapRangeRingHom (f : R →+* S) :
-    ⇑(mapRangeRingHom M f) = mapRange f (map_zero _) := by
+    ⇑(mapRangeRingHom M f) = Finsupp.mapRange f (map_zero _) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Similarly I would expect this line to be reverted

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 5]
```diff
@@ -59,6 +59,40 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+@[to_additive (attr := simp)]
+lemma coeff_mapRange (f : R →+ S) (x : R[M]) : (mapRange f x) = Finsupp.mapRange f f.map_zero x :=
+  rfl
+
+@[to_additive (attr := simp)]
+lemma mapRange_zero (f : R →+ S) : mapRange f (0 : R[M]) = 0 :=
+  Finsupp.mapRange_zero (hf := f.map_zero)
+
+@[to_additive]
+lemma mapRange_add (f : R →+ S) (x y : R[M]) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Could you do sub and neg too?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: sorry, I seem to have accidentally stripped all `.coeff` from the PR

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Probably not, because that would be introducing `coeff` and `ofCoeff` in downstream proofs, which I would suddenly have to fix

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Nevermind, turns out I need to fix nothing more

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 6]
```diff
@@ -131,15 +162,15 @@ variable (M) in
 
 `Finsupp.mapRange` as an `AddEquiv`. -/]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
`AddMonoidAlgebra.mapRange` as an `AddEquiv`. -/]
```
and a few other docstrings

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 7]
```diff
@@ -59,6 +56,40 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
+each coefficient along `f`. -/
+@[to_additive
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
+each coefficient along `f`. -/]
+def mapRange (f : R →+ S) (x : R[M]) : S[M] := .ofCoeff <| x.coeff.mapRange f f.map_zero
+
+@[to_additive (attr := simp)]
+lemma coeff_mapRange (f : R →+ S) (x : R[M]) :
+    (mapRange f x).coeff = x.coeff.mapRange f f.map_zero := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Do we want the `ofCoeff` version too?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 8]
```diff
@@ -298,6 +328,20 @@ lemma commRingEquiv_single_single (m : M) (n : N) (r : R) :
...
     mapDomainRingHom, EquivLike.toEquiv]
 
+end Semiring
+
+section Ring
+variable [Ring R] [Ring S]
+
+@[to_additive]
+lemma mapRange_neg (f : R →+ S) (x : R[M]) : mapRange f (-x) = -mapRange f x :=
+  Finsupp.mapRange_neg (hf := f.map_zero) f.map_neg ..
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:428]: Using `map_neg` on `mapRangeAddEquiv` is more likely to survive the incoming refactor

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Probably not, as it prevents unfolding `MonoidAlgebra.mapRange`, which is a very useful strategy at this point of the refactor

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:428]: `f` isn't an `AddEquiv`, so this isn't available. I could add `mapRangeAddMonoidHom` but right now I doubt it's worth it

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: I think that's just an argument not to mark (one direction of) it `simp`?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:428]: Ah, I missed that

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 9]
```diff
@@ -187,24 +218,23 @@ variable (M) in
...
 -/]
 noncomputable def mapRangeRingHom (f : R →+* S) : R[M] →+* S[M] where
-  toFun := mapRange f f.map_zero
-  map_zero' := mapRange_zero
-  map_add' := mapRange_add f.map_add
+  toFun := .mapRange f
+  map_zero' := mapRange_zero _
+  map_add' := mapRange_add _
   map_one' := by ext; simp [one_def]
   map_mul' _ _ := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Can you extract this proof to a `mapRange_mul` lemma, now that we have the def to state it about?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 10]
```diff
@@ -59,6 +56,72 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+def mapRange (f : R →+ S) (x : R[M]) : S[M] := .ofCoeff <| x.coeff.mapRange f f.map_zero
+
+@[to_additive (attr := simp)]
+lemma coeff_mapRange (f : R →+ S) (x : R[M]) :
+    (mapRange f x).coeff = x.coeff.mapRange f f.map_zero := rfl
+
+/-- This isn't marked as simp to avoid looping with unfolding `coeff`. -/
+@[to_additive /-- This isn't marked as simp to avoid looping with unfolding `coeff`. -/]
+lemma ofCoeff_mapRange (f : R →+ S) (x : M →₀ R) :
+    ofCoeff (.mapRange f f.map_zero x) =mapRange f (ofCoeff x) := rfl
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
    ofCoeff (.mapRange f f.map_zero x) = mapRange f (ofCoeff x) := rfl
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 11]
```diff
@@ -59,6 +56,72 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
     mapDomain f (1 : R[M]) = (1 : R[N]) := by
   simp [one_def]
 
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
+each coefficient along `f`. -/
+@[to_additive
+/-- Given a map `f : R → S`, return the corresponding map `R[M] → S[M]` obtained by mapping
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]:
```suggestion
/-- Given a map `f : R →+ S`, return the corresponding map `R[M] → S[M]` obtained by mapping
each coefficient along `f`. -/
@[to_additive
/-- Given a map `f : R →+ S`, return the corresponding map `R[M] → S[M]` obtained by mapping
```

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 12]
```diff
@@ -59,6 +56,72 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+each coefficient along `f`. -/]
+def mapRange (f : R →+ S) (x : R[M]) : S[M] := .ofCoeff <| x.coeff.mapRange f f.map_zero
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Would it make sense to call this `mapCoeff` instead of `mapRange`?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 13]
```diff
@@ -59,6 +56,72 @@ theorem mapDomain_one [One M] [One N] {F : Type*} [FunLike F M N] [OneHomClass F
...
+    mapRange f (mapRange g x) = mapRange (f.comp g) x := by simp [mapRange, coeff, ofCoeff]
+
+/-- Pullback the coefficients of an element of `R[N]` under an injective `f : M → N`.
+
+Coefficients not in the range of `f` are dropped. -/
+@[to_additive
+/-- Pullback the coefficients of an element of `R[N]` under an injective `f : M → N`.
+
+Coefficients not in the range of `f` are dropped. -/]
+def comapDomain (f : M → N) (hf : Injective f) (x : R[N]) : R[M] :=
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:104]: Is there a reason to weaken the injectivity assumption here?

**Review by JovanGerb — COMMENTED** [review]
Shoud `MonoidAlgebra/MapDomain.lean` be renamed to `MonoidAlgebra/Map.lean`?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Sure, yeah!

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean:104]: I see no reason why you would ever map a single element of the monoid algebra under a not-everywhere injective function. It is furthermore easy to revisit this decision later on if the need does arise

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 14]
```diff
@@ -342,26 +342,26 @@ lemma mapDomainRingHom_comp_algebraMap (f : M →* N) :
...
-    (mapRangeRingHom (M := M) f).comp (algebraMap _ _) = (algebraMap _ _).comp f := by ext; simp
+lemma mapCoeffRingHom_comp_algebraMap (f : R →+* S) :
+    (mapCoeffRingHom (M := M) f).comp (algebraMap _ _) = (algebraMap _ _).comp f := by ext; simp
 
 variable (M) in
 /-- The algebra homomorphism of monoid algebras induced by a homomorphism of the base algebras. -/
 @[to_additive
 /-- The algebra homomorphism of additive monoid algebras induced by a homomorphism of the base
 algebras. -/]
 noncomputable def mapRangeAlgHom (f : A →ₐ[R] B) : A[M] →ₐ[R] B[M] where
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean]: This should also be renamed right?

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: Yes, sorry, I missed this one

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 15]
```diff
@@ -342,40 +345,51 @@ lemma mapDomainRingHom_comp_algebraMap (f : M →* N) :
...
   classical ext; simp [single_apply, apply_ite f]
 
+@[deprecated (since := "2026-03-20")] alias mapRangeAlgHom_single := mapCoeffAlgHom_single
+
 variable (R M) in
 /-- The algebra isomorphism of monoid algebras induced by an isomorphism of the base algebras. -/
 @[to_additive (attr := simps apply)
 /-- The algebra isomorphism of additive monoid algebras induced by an isomorphism of the base
 algebras. -/]
 noncomputable def mapRangeAlgEquiv (e : A ≃ₐ[R] B) : A[M] ≃ₐ[R] B[M] where
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean]: Should this be renamed as well?

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 16]
```diff
@@ -181,48 +267,69 @@ lemma mapDomainRingHom_comp (f : N →* O) (g : M →* N) :
     mapDomainRingHom R (f.comp g) = (mapDomainRingHom R f).comp (mapDomainRingHom R g) := by
   ext <;> simp
 
+@[to_additive (attr := simp) (dont_translate := R S) mapCoeff_one]
+lemma mapCoeff_one (f : R →+* S) : mapCoeff f (1 : R[M]) = (1 : S[M]) := by ext; simp [one_def]
```
Comment (JovanGerb) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: Technically, this lemma only needs `[One M]` rather than `[Monoid M]`. Do we care about this? It seems that we do for [Finsupp.mapRange_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Defs.html#Finsupp.mapRange_zero).

Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: No, definitely not. This is a `MonoidAlgebra`, not a `MulOneModule`. There *might* be some use case for weakening to `Semigroup M`, but I would just wait for the use case to appear

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 17]
```diff
@@ -308,7 +308,7 @@ theorem trunc_C_mul_T (n : ℤ) (r : R) : trunc (C r * T n) = ite (0 ≤ n) (mon
   split_ifs with n0
   · rw [toFinsupp_monomial]
     lift n to ℕ using n0
-    apply comapDomain_single
+    apply Finsupp.comapDomain_single
```
Comment (JovanGerb) [inline Mathlib/Algebra/Polynomial/Laurent.lean]:
```suggestion
    apply comapDomain_single
```
This change is redundant

**Review by JovanGerb — APPROVED** [review]
Thanks for doing this!

maintainer delegate

File: Mathlib/Algebra/Polynomial/Laurent.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Laurent.lean]: Nicely spotted!

File: Mathlib/Algebra/MonoidAlgebra/MapDomain.lean [hunk 18]
```diff
@@ -181,48 +267,69 @@ lemma mapDomainRingHom_comp (f : N →* O) (g : M →* N) :
...
+
+@[to_additive (attr := simp) (dont_translate := R S) mapCoeff_mul]
+lemma mapCoeff_mul (f : R →+* S) (x y : R[M]) :
+    mapCoeff (f : R →+ S) (x * y) = mapCoeff f x * mapCoeff f y := by
+  classical
+  ext
+  simp [mul_def]
+  simp [MonoidAlgebra, sum_mapRange_index, map_finsuppSum, single_apply, apply_ite, mapCoeff,
+    coeff, ofCoeff]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/MapDomain.lean]: bors r-

I think this should move to the `Mul` section above? I think we've deliberately made things work for magmas.
